* c:\users\jagad\esim-workspace\dflipflop\dflipflop.cir

.include NMOS-180nm.lib
.include PMOS-180nm.lib
m3 vcc input net-_m1-pad1_ vcc CMOSP W=100u L=100u M=1
m5 vcc net-_m1-pad1_ output vcc CMOSP W=100u L=100u M=1
m1 net-_m1-pad1_ net-_m1-pad2_ net-_m1-pad3_ net-_m1-pad3_ CMOSN W=100u L=100u M=1
m4 output net-_m1-pad3_ gnd gnd CMOSN W=100u L=100u M=1
m2 net-_m1-pad3_ input gnd gnd CMOSN W=100u L=100u M=1
v1  input gnd pulse(0 5 0 1 1 5 50)
v2  net-_m1-pad2_ gnd pulse(0 5 0 1 1 5 50)
* u2  output plot_db
* u1  input plot_db
.tran 5e-00 200e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot db(output)
plot db(input)
.endc
.end
